US05411869
6-(cis-1,2,3,6-tetrahydrophthalimido)hexanoic acid (1a)
31 g (0.2 mole) of cis-1,2,3,6-tetrahydrophthalic anhydride and 26.2 g (0.2 mole) of 6-aminohexanoic acid are dissolved in 400 ml. of acetic acid and warmed 3 hours on a steam bath. The cooled solution is concentrated to remove most of the acetic acid and the residue taken up in 200 ml. of methylene chloride. The solution is washed twice with water and dried over sodium sulfate. The solvent is removed and the residue taken up in 500 ml toluene. Para-toluenesulfonic acid (1 g) is added to the solution, followed by reflux for 10 hrs. with a Dean-Stark water trap. The solution is cooled and concentrated to about 50 ml and diluted with 50 ml of hexane. The mixture is shaken for a few minutes until the oil crystallizes then cooled at 4° C. for several hours, filtered and dried at 50° C. The light yellow crystals (32 g) are taken up in chloroform and filtered to remove any precipitate. The solution is diluted with hexane near the cloud point, cooled until a crystalline mass accumulates, filtered and dried to yield white crystals, m.p. 85°-87° C.

reactant | cis-1,2,3,6-tetrahydrophthalic anhydride | 0.2 mole, 31 g | C1([C@H]2[C@@H](C(=O)O1)CC=CC2)=O | C8H8O3
reactant | 6-aminohexanoic acid | 0.2 mole, 26.2 g | NCCCCCC(=O)O | C6H13NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-(cis-1,2,3,6-tetrahydrophthalimido)hexanoic acid | C1([C@H]2[C@@H](C(N1CCCCCC(=O)O)=O)CC=CC2)=O | C14H19NO4
